US05716963
A solution of 2-chloro-3-phenyl-5,8-dimethoxyquinoline (200 mg, 0.67 mmol) was refluxed for 3 hours in acetic acid (1.5 ml) and water (0.05 ml.) After the solvent was evaporated, the residue was dissolved in water, basified with aqueous ammonium hydroxide 25% and extracted with chloroform (3×25 ml). The combined chloroform layers were dried over sodium sulfate and evaporated, yielding an essentially pure residue of 187 mg (100%) of 3-phenyl-5,8-dimethoxy-2-(1H)-quinolinone. m.p. 207 (CDCl3).

reactant | 2-chloro-3-phenyl-5,8-dimethoxyquinoline | 0.67 mmol, 200 mg | ClC1=NC2=C(C=CC(=C2C=C1C1=CC=CC=C1)OC)OC | C17H14ClNO2
reactant | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | 3-phenyl-5,8-dimethoxy-2-(1H)-quinolinone | 187 mg, 100% | C1(=CC=CC=C1)C=1C(NC2=C(C=CC(=C2C1)OC)OC)=O | C17H15NO3
